US05318966
5.0 g (12.12 mmol) of rac-cis-1-[6-(6-hydroxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)hexyl]-4,4-dimethyl-piperidine-2,6-dione were dissolved in 200 ml of toluene, whereupon the solution was treated with 2.57 g (3.55 ml, 25.45 mmol) of triethylamine, 1.56 g (1.33 ml, 14.53 mmol) of dimethylcarbamoyl chloride and 250 mg of 4-dimethylamino-pyridine and stirred in an oil bath under an argon atmosphere overnight at an oil bath temperature of 110°. After cooling the organic phase was washed in succession with water, sodium bicarbonate solution and water, dried over magnesium sulphate and evaporated. The brown oil obtained (6.0 g) was chromatographed on a 30-fold amount of silica gel. After concentration of the eluates obtained using methylene chloride/ethyl acetate 1:1 there were obtained 3.0 g of yellowish rac-cis-3-[6-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)hexyl]-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate, which was converted into the hydrochloride in the usual manner. There were obtained 3.0 g (48%) of hydrochloride in the form of yellowish crystals of m.p. 144.5°-146°.

reactant | rac-cis-1-[6-(6-hydroxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)hexyl]-4,4-dimethyl-piperidine-2,6-dione | 12.12 mmol, 5.0 g | OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(CC(CC2=O)(C)C)=O | C25H36N2O3
reactant | triethylamine | 25.45 mmol, 3.55 ml, 2.57 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 14.53 mmol, 1.33 ml, 1.56 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylamino-pyridine | 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-3-[6-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)hexyl]-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate | 3.0 g | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(CC(CC2=O)(C)C)=O)=O)C | C28H41N3O4
